US05108486
Following procedures similar to those employed in Step A of Example 2, the reaction of 10.0 g (0.0653 mole) of 4-fluorophenyl isothiocyanate with 3.01 g (0.0654 mole) of methylhydrazine in 100 ml of ethanol yielded 10 g of 4-(4-fluorophenyl)-2-methyl-3-thiosemicarbazide as a solid, mp 148°-150° C. The nmr spectrum was consistent with the proposed structure.

reactant | 4-fluorophenyl isothiocyanate | 0.0653 mole, 10.0 g | FC1=CC=C(C=C1)N=C=S | C7H4FNS
reactant | methylhydrazine | 0.0654 mole, 3.01 g | CNN | CH6N2
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 4-(4-fluorophenyl)-2-methyl-3-thiosemicarbazide | 10 g | FC1=CC=C(C=C1)NC(N(N)C)=S | C8H10FN3S
